US07105467B2
In a reaction flask was placed NiCl2(PCy3)2 (58.5 mg, 0.0847 mmol), tridecane (345 mg, 1.875 mmol, as an internal standard), and 2-methoxypyridine (343 mg, 3.146 mmol). The Grignard reagent (1 M in THF, 6.2 mmol) was added to the above catalyst mixture under a nitrogen atmosphere at 0° C. The resulting solution was stirred for several minutes and warmed to room temperature for 15 hours. The reaction mixture was quenched with an aqueous sodium citrate solution (1 M). The resulting aqueous solution was extracted with MTBE (4×25 mL). The combined organic layer was washed with an aqueous HCl solution (2.5 M, 4×15 mL). The aqueous layer was then extracted with MTBE (1×25 mL). This solution was cooled to 0° C. and a dilute aqueous KOH solution was added until pH 8. The aqueous layer was extracted with MTBE (4×25 mL) and dried over MgSO4. The resulting solution was filtered and concentrated under vacuum. The resulting residue was purified by silica gel chromatography (eluted with MTBE) to afford 2-phenylpyridine (368 mg, 75% yield).

reactant | tridecane | CCCCCCCCCCCCC | C13H28
reactant | 2-methoxypyridine | 3.146 mmol, 343 mg | COC1=NC=CC=C1 | C6H7NO
product | 2-phenylpyridine | 368 mg, 75% yield | C1(=CC=CC=C1)C1=NC=CC=C1 | C11H9N
